US06376527B1
5-Amino-1-(4-fluorophenyl)-4-[3-hydroxybenzoyl]pyrazole, from Example 10, step 2, (0.30 g, 1.01 mmol) was combined with K2CO3 (0.418 g, 3.03 mmol) and THF (6 mL). The mixture was cooled then isopropyl isocyanate (0.12 mL, 1.21 mmol) was warm to room temperature and stirred for 16 hours. The reaction mixture was quenched with water, extracted into ethyl acetate, dried (MgSO4), filtered, and concentrated to dryness. The residue was stirred in methanol and dichloromethane for one hour then filtered to give 0.118 g of 5-amino-1-(4-fluorophenyl)-4-[3-isopropylaminocarbonyloxybenzoyl]pyrazole (mpt. 225.2-230.1° C.).

reactant | 5-Amino-1-(4-fluorophenyl)-4-[3-hydroxybenzoyl]pyrazole | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)O)=O | C16H12FN3O2
reactant | K2CO3 | 3.03 mmol, 0.418 g | C(=O)([O-])[O-].[K+].[K+]
reactant | isopropyl isocyanate | 1.21 mmol, 0.12 mL | C(C)(C)N=C=O | C4H7NO
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 5-amino-1-(4-fluorophenyl)-4-[3-isopropylaminocarbonyloxybenzoyl]pyrazole | 0.118 g | NC1=C(C=NN1C1=CC=C(C=C1)F)C(C1=CC(=CC=C1)OC(=O)NC(C)C)=O | C20H19FN4O3
